US05986131
2.03 g of NaH (50% in mineral oil) was suspended in 120 ml of DMF. 4-(Diethoxy-phosphinyl-3-methyl-but-2-enoic acid ethyl ester (12.9 g) was added at 0° C. The mixture was stirred for 15 minutes at 0° C. and for 30 minutes at RT. After recooling to 0° C., 2-bromo-cyclopent-1-ene-carbaldehyde (5.72 g), dissolved in 11 ml of DMF, was added drop by drop and allowed to react for 10 minutes at 0° C. and for 2 hours at RT. The mixture was then poured into crashed ice. extracted with EtOEt, washed with sat. NaCl-solution, dried over Na2SO4, and evaporated to dryness. Purification of the residue by flash chromatography (silica gel, hexane/AcOEt=97/3) and crystallization from hexane/trace amounts of AcOEt yielded finally 3.408 g of pure (2E,4E)-5-(2-bromo-cyclopent-1-enyl)-3-methyl-penta-2,4-dienoic acid ethyl ester as yellowish crystals of mp. 85-86° C.

reactant | NaH | 2.03 g | [H-].[Na+]
reactant | Diethoxy-phosphinyl-3-methyl-but-2-enoic acid ethyl ester | 12.9 g | C(C)OC(C(=C(C(OCC)OCC)C)[PH2]=O)=O | C11H21O5P
reactant | 2-bromo-cyclopent-1-ene-carbaldehyde | 5.72 g | BrC1=C(CCC1)C=O | C6H7BrO
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | DMF | 11 ml | CN(C)C=O | C3H7NO
product | (2E,4E)-5-(2-bromo-cyclopent-1-enyl)-3-methyl-penta-2,4-dienoic acid ethyl ester | 3.408 g | C(C)OC(\C=C(\C=C\C1=C(CCC1)Br)/C)=O | C13H17BrO2
